US09399647B2
The 2-(2-chloro-acetylamino)-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid amide (20 g, 0.073 mol) in 150 ml of 1.5M-NaOH solution was refluxed for 4 h. The reaction mixture was cooled and filtered. The filtrate was acidified (pH=5) with dilute hydrochloric acid to give solid material. The solid was filtered, washed with water, and dried to provide 2-hydroxymethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-ol (4.5 g, 25%) as yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 1.70-1.80 (m, 4H), 2.68-2.75 (m, 2H), 2.80-2.88 (m, 2H), 4.35 (d, 2H), 5.61 (t, 1H), 11.95 (s, 1H); LC-MS: [M+H]=237.2 m/z.

reactant | 2-(2-chloro-acetylamino)-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid amide | 0.073 mol, 20 g | ClCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C11H13ClN2O2S
reactant | NaOH | [OH-].[Na+]
product | 2-hydroxymethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-ol | 4.5 g, 25% | OCC=1N=C(C2=C(N1)SC1=C2CCCC1)O | C11H12N2O2S
